US07179819B2
To a stirred solution of cis-1tert-butoxycarbonyl-(2S)-(tert-butyldiphenylsilyloxy)methyl-4-hydroxypyrrolidine (1.82 mg, 4.0 mmol), phthalimide (647 mg, 4.4 mmol), and Ph3P (1.26 g, 4.8 mmol) in THF (20 ml) was added DIAD (889 mg, 4.4 mmol) at 0° C. The reaction mixture was stirred at room temperature for 18 hr. The mixture was concentrated in vacuo. The residue was purified by column chromatography on silica gel with n-hexane-EtOAc (5/1, v/v) as eluent to give N-[cis-1tert-butoxycarbonyl-(2S)-(tert-butyldiphenylsilyloxy)methyl-4-pyrrolidinyl]phthalimide (1.6 g, 69%) as an amorphous solid. 1H-NMR (CDCl3) δ 1.07 (s, 9H), 1.30 and 1.44 (each s, total 9H), 2.27–2.37 (m, 1H), 2.94–2.96 (m, 1H), 3.81–4.09 (m, 51H), 4.72 (m, 1H), 7.37–7.38 (m, 6H), 7.67–7.74 (m, 6H), 7.84–7.86 (m, 2H).

reactant | cis-1tert-butoxycarbonyl-(2S)-(tert-butyldiphenylsilyloxy)methyl-4-hydroxypyrrolidine | 4.0 mmol, 1.82 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)O)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C26H37NO4Si
reactant | phthalimide | 4.4 mmol, 647 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | Ph3P | 4.8 mmol, 1.26 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 4.4 mmol, 889 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-[cis-1tert-butoxycarbonyl-(2S)-(tert-butyldiphenylsilyloxy)methyl-4-pyrrolidinyl]phthalimide | 1.6 g, 69% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)N1C(C=2C(C1=O)=CC=CC2)=O)CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C | C34H40N2O5Si
